US05346913
To a stirred solution of 3-(2-propynyl)-5,5-dimethylhydantoin (1 g, 60 mmole) in CCl4 (20 mL) at room temperature was added N-iodosuccinimide (1.6 g, 7.1 mmole). Dry acetone was added until all materials were dissolved. To the above clear solution was added silver nitrate (0.1 g, 0.58 mmole) and the reaction mixture was stirred at room temperature for 2 hr. The mixture was diluted with water (60 mL) and was extracted with ethyl acetate (3×50 mL). The organic layer was washed with saturated sodium chloride solution (75 mL) and dried with sodium sulfate. After filtering off drying agent and evaporating the solvents, a light yellow solid of 3-(3-iodo-2-propynyl)-5,5-dimethylhydantoin was obtained, 1.6 g (91%), mp=118°-126° C. An NMR spectrum also showed the desired product.

reactant | 3-(2-propynyl)-5,5-dimethylhydantoin | 60 mmole, 1 g | C(C#C)N1C(NC(C1=O)(C)C)=O | C8H10N2O2
reactant | N-iodosuccinimide | 7.1 mmole, 1.6 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | acetone | CC(=O)C | C3H6O
solvent | CCl4 | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 60 mL | O | H2O
catalyst | silver nitrate | 0.58 mmole, 0.1 g | [N+](=O)([O-])[O-].[Ag+]
product | 3-(3-iodo-2-propynyl)-5,5-dimethylhydantoin | IC#CCN1C(NC(C1=O)(C)C)=O | C8H9IN2O2
